US07119207B2
A solution of 0.2 g (1.22 mmol) 5-methoxy-1,3-dihydro-pyrrolo[3,2-b]pyridin-2-one (J. Het. Chem. 1996, 33, 287–93) was dissolved in 10 ml of DMF and cooled to 0° C. under a nitrogen atmosphere in a flame dried round bottom flask. To this solution was added 4.02 ml (4.02 mmol) of a 1M solution of potassium t-butoxide in THF and the solution was stirred for 10 minutes. To this solution was added dropwise 0.3 ml (4.88 mmol) of MeI, and the reaction was stirred for 15 minutes at 0° C. The reaction was quenched with water and extracted with ethyl acetate. The ethyl acetate extracts were dried (Na2SO4) and evaporated. The residue was chromatographed on 6 g of silica using 3:1 hexanes/ethyl acetate as the elutant. Appropriate fractions were combined and evaporated to yield 0.14 g of 5-methoxy-1,3,3-trimethyl-1,3-dihydro-pyrrolo[3,2-b]pyridin-2-one. 1H NMR (CDCl3) δ 7.02 (d, 1H), 6.58 (d, 1H), 3.90 (s, 3H), 3.18 (s, 3H), 1.38 (s, 6H). Mass spectrum: m/e=207 (P+1).

reactant | 5-methoxy-1,3-dihydro-pyrrolo[3,2-b]pyridin-2-one | 1.22 mmol, 0.2 g | COC1=CC=C2C(=N1)CC(N2)=O | C8H8N2O2
reactant | MeI | 4.88 mmol, 0.3 ml | CI | CH3I
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-methoxy-1,3,3-trimethyl-1,3-dihydro-pyrrolo[3,2-b]pyridin-2-one | 0.14 g | COC1=CC=C2C(=N1)C(C(N2C)=O)(C)C | C11H14N2O2
